US07625902B2
(RS)-4-[4-(2,5-Dimethyl-phenyl)-piperazine-1-carbonyl]-3-phenyl-1-(2-trifluoromethyl-benzenesulfonyl)-imidazolidin-2-one
Steps 4 and 5: In analogy to example 1, (RS)-2-oxo-3-phenyl-1-(2-trifluoromethyl-benzenesulfonyl)-imidazolidine-4-carboxylic acid methyl ester was hydrolyzed using sodium hydroxide solution to give (RS)-2-oxo-3-phenyl-1-(2-trifluoromethyl-benzenesulfonyl)-imidazolidine-4-carboxylic acid. Finally, (RS)-2-oxo-3-phenyl-1-(2-trifluoromethyl-benzenesulfonyl)-imidazolidine-4-carboxylic acid was coupled with 1-(2,5-dimethylphenyl)piperazine to give the title compound as a colorless solid. MS: 586.8 ([M+H]+)

reactant | (RS)-2-oxo-3-phenyl-1-(2-trifluoromethyl-benzenesulfonyl)-imidazolidine-4-carboxylic acid | O=C1N(CC(N1C1=CC=CC=C1)C(=O)O)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C17H13F3N2O5S
reactant | 1-(2,5-dimethylphenyl)piperazine | CC1=C(C=C(C=C1)C)N1CCNCC1 | C12H18N2
product | (RS)-4-[4-(2,5-Dimethyl-phenyl)-piperazine-1-carbonyl]-3-phenyl-1-(2-trifluoromethyl-benzenesulfonyl)-imidazolidin-2-one | CC1=C(C=C(C=C1)C)N1CCN(CC1)C(=O)C1N(C(N(C1)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)=O)C1=CC=CC=C1 | C29H29F3N4O4S
